US04963348
A 60:30:10 (weight percent) isobutylmethacrylate/2-ethyl-hexylmethacrylate/N,N-dimethylacrylamide copolymer is prepared as follows. Isobutylmethacrylate, 2-ethylhexylmethacrylate, and N,N-dimethylacrylamide are weighed out (relative weight ratios of 60:30:10) and added to a four neck flask fitted with an argon sparge, mechanical stirrer, thermometer and condenser. Toluene is then added to the flask to get a final monomer concentration of 25.0 weight percent. The reaction flask is placed in a 60° C. water bath and the reaction mixture is sparged with argon for two hours while stirring. After two hours, azobisisobutyronitrile ("AIBN") is added to the reaction flask in an amount sufficient to get a final initiator concentration of 0.25 weight percent. The reaction is then stirred for two hours, after which time the reaction flask is removed from the water bath and the reaction mixture is poured into a polyethylene tray, air dried, and dried in a vacuum oven at 120° C. Optionally, after two hours of stirring, an additional 0.25% initiator is added and the reaction continued for an additional hour. It is then dried as stated. If it is desired to increase or decrease the polymer molecular weight this is done by altering the level of initiator used, or by adding a chain transfer agent (such as decanethiol) to the reaction mixture. The glass transition temperature of this copolymer is calculated to be approximately 38° C.

reactant | Isobutylmethacrylate | C(C(C)C)OC(C(=C)C)=O | C8H14O2
reactant | 2-ethylhexylmethacrylate | C(C)C(COC(C(=C)C)=O)CCCC | C12H22O2
reactant | N,N-dimethylacrylamide | CN(C(C=C)=O)C | C5H9NO
product | isobutylmethacrylate 2-ethyl-hexylmethacrylate N,N-dimethylacrylamide | C(C(C)C)OC(C(=C)C)=O.C(C)C(CC=C(C(=O)[O-])C)CCCC.CN(C(C=C)=O)C | InChI=1S/C12H22O2.C8H14O2.C5H9NO/c1-4-6-7-11(5-2)9-8-10(3)12(13)14;1-6(2)5-10-8(9)7(3)4;1-4-5(7)6(2)3/h8,11H,4-7,9H2,1-3H3,(H,13,14);6H,3,5H2,1-2,4H3;4H,1H2,2-3H3/p-1
